US07214798B2
1.1. 2-{2-[4-(1-Naphthyl)-1-piperazinyl]ethyl}-1H-isoindole-1,3(2H)-dione
A suspension of 1.17 g (5.52 mmol) of 1-(1-naphthyl)piperazine (Tetrahedron Letters, 1998, 39(15), 2219–2222), 0.99 g (7.15 mol) of potassium carbonate and 1.68 g (6.62 mmol) of 2-(2-bromoethyl)-1H-isoindole-1,3(2H)-dione in 15 ml of N,N-dimethylformamide is heated at 90° C. for 2 hours.

reactant | 1-(1-naphthyl)piperazine | 5.52 mmol, 1.17 g | C1(=CC=CC2=CC=CC=C12)N1CCNCC1 | C14H16N2
reactant | potassium carbonate | 7.15 mol, 0.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2-bromoethyl)-1H-isoindole-1,3(2H)-dione | 6.62 mmol, 1.68 g | BrCCN1C(C2=CC=CC=C2C1=O)=O | C10H8BrNO2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-{2-[4-(1-Naphthyl)-1-piperazinyl]ethyl}-1H-isoindole-1,3(2H)-dione | C1(=CC=CC2=CC=CC=C12)N1CCN(CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C24H23N3O2
